US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]-1,3-benzothiazol-6-yl}oxy)-3-fluorophenyl]-N′-phenylcyclopropane-1,1-dicarboxamide
To a solution of 1-(phenylcarbamoyl)cyclopropanecarboxylic acid (214 mg, 1.04 mmol) in tetrahydrofuran (2 mL) were added oxalyl chloride (178 μL, 2.08 μmol) and N,N-dimethylformamide (2 drops) under ice-cooling, and the mixture was stirred at room temperature for 3 hr. The solvent was evaporated under reduced pressure. To a solution of the obtained residue in N,N-dimethylacetamide (5 mL) was added N-[6-(4-amino-2-fluorophenoxy)-1,3-benzothiazol-2-yl]cyclopropanecarboxamide (275 mg, 0.80 mmol), and the mixture was stirred at room temperature for 18 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=80/20→20/80, NH silica gel, hexane/ethyl acetate=50/50→0/100) and recrystallized from ethyl acetate to give the title compound (241 mg, 57%) as white crystals.

reactant | 1-(phenylcarbamoyl)cyclopropanecarboxylic acid | 1.04 mmol, 214 mg | C1(=CC=CC=C1)NC(=O)C1(CC1)C(=O)O | C11H11NO3
reactant | N-[6-(4-amino-2-fluorophenoxy)-1,3-benzothiazol-2-yl]cyclopropanecarboxamide | 0.80 mmol, 275 mg | NC1=CC(=C(OC2=CC3=C(N=C(S3)NC(=O)C3CC3)C=C2)C=C1)F | C17H14FN3O2S
reactant | Water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
catalyst | oxalyl chloride | 2.08 μmol, 178 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | N-[4-({2-[(cyclopropylcarbonyl)amino]-1,3-benzothiazol-6-yl}oxy)-3-fluorophenyl]-N′-phenylcyclopropane-1,1-dicarboxamide | 241 mg, 57% | C1(CC1)C(=O)NC=1SC2=C(N1)C=CC(=C2)OC2=C(C=C(C=C2)NC(=O)C2(CC2)C(=O)NC2=CC=CC=C2)F | C28H23FN4O4S
